US07244730B2
(Step 2) [6-Acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-4-yl]methyl cyanide
Potassium carbonate (3.6 g, 26 mmol) and bromoacetonitrile (15.4 g, 128.6 mmol) were added to a solution of 1-[8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone (6.0 g, 25.5 mmol) in dimethylformamide (100 ml) and the mixture was stirred at 90° C. for 6 hours. Ethyl acetate was added, the reaction mixture was washed with water and brine in that order and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and then the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (6.9 g) as a light yellow oil.

reactant | Potassium carbonate | 26 mmol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 128.6 mmol, 15.4 g | BrCC#N | C2H2BrN
reactant | 1-[8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone | 25.5 mmol, 6.0 g | C(C)(C)(C)C1=CC(=CC=2NCCOC21)C(C)=O | C14H19NO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | [6-Acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-4-yl]methyl cyanide | 6.9 g | C(C)(=O)C=1C=C(C2=C(N(CCO2)CC#N)C1)C(C)(C)C | C16H20N2O2
